US06307087B1
An oven-dried, round-bottom flask was charged with magnesium turnings (15.3 g, 0.63 mol) and 1-bromoadamantane (9.0 g, 0.041 mol). The flask was evacuated and backfilled with argon two times. To the reaction vessel 45 mL ether was added and the mixture was gently refluxed for 15 hours, without mechanical stirring. The resulting solution of Grignard reagent was taken up in a syringe, and added very slowly dropwise to a separate flame-dried, two-necked, round-bottom flask equipped with a reflux condenser which had been charged with PCl3 (0.9 mL, 10 mmol) and 15 mL ether which had been coooled to −40° C. During the addition the temperature was monitored and kept below −25° C. The resulting mixture was stirred for 30 minutes at −45° C., then the cooling bath was removed and the reaction mixture was allowed to warm slowly to room temperature. After stirring for an additional 30 minutes at room temperature, the reaction vessel was placed into a heated oilbath (37° C.) and was gently refluxed for 22 hours. The mixture was cooled to room temperature, and the solution was filtered through a cannula filter. The solvent as well as some of the adamantane byproduct was removed in vacuo, without exposing the product to air to afford crude di-1-adamantylchlorophosphine.

reactant | magnesium | 0.63 mol, 15.3 g | [Mg] | Mg
reactant | 1-bromoadamantane | 0.041 mol, 9.0 g | BrC12CC3CC(CC(C1)C3)C2 | C10H15Br
reactant | PCl3 | 10 mmol, 0.9 mL | P(Cl)(Cl)Cl | Cl3P
solvent | ether | 15 mL | CCOCC | C4H10O
product | di-1-adamantylchlorophosphine | C12(CC3CC(CC(C1)C3)C2)P(Cl)C23CC1CC(CC(C2)C1)C3 | C20H30ClP
